US04371720
Trans-3-methyl-4-(2-propenyl)cyclohexanone
To a 0° C. solution of 0.282 mole of dimethyl copper lithium in 200 ml. of tetrahydrofuran was slowly added a solution of 25.6 g. (0.188 mole) of 4-(2-propenyl)cyclohex-2-en-1-one in 50 ml. of tetrahydrofuran. The reaction was stirred 15 minutes and then quenched by addition to a 0° C. saturated solution (500 ml.) of ammonium chloride. The quenched reaction was extracted with 500 ml. ether. The ether extract was washed with 500 ml. saturated ammonium chloride, dried over magnesium sulfate and evaporated to an oil which was purified via distillation to yield 15.5 g. (55%) of the title compound.

reactant | dimethyl copper lithium | 0.282 mole | [Li].C[Cu]C
reactant | 4-(2-propenyl)cyclohex-2-en-1-one | 0.188 mole | C(C=C)C1C=CC(CC1)=O | C9H12O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Trans-3-methyl-4-(2-propenyl)cyclohexanone | 55% | C[C@@H]1CC(CC[C@H]1CC=C)=O | C10H16O
